US04640911
1,4-diaminobutane and 2-{2-[(2,6-dichlorophenyl)-amino]-phenyl}-acetic acid p-nitrophenyl ester are allowed to react for 8 hours at room temperature in methylene chloride/methanol (1:1). The reaction solution is then concentrated by evaporation in vacuo, the residue is taken up in tetrahydrofuran and the whole is extracted by shaking with 2N hydrochloric acid. The aqueous phase is extracted three times with diethyl ether to remove nitrophenol and is then saturated with NaCl and extracted with tetrahydrofuran. The organic phase is dried with Na2SO4 and concentrated by evaporation. The residue is triturated with diethyl ether and yields a crystalline powder which is recrystallised from ethyl acetate. 2-{2-[(2,6-dichlorophenyl)-amino]-phenyl}-acetic acid 4-aminobutylamide hydrochloride is obtained in the form of its ethyl acetate solvate; m.p. 137°-140°; Rf =0.177 (CHCl3 :methanol:concentrated aqueous ammonia solution=10:10:0.1).

reactant | 1,4-diaminobutane | NCCCCN | C4H12N2
reactant | 2-{2-[(2,6-dichlorophenyl)-amino]-phenyl}-acetic acid p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O | C20H14Cl2N2O4
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 2-{2-[(2,6-dichlorophenyl)-amino]-phenyl}-acetic acid 4-aminobutylamide hydrochloride | Cl.NCCCCNC(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O | InChI=1S/C18H21Cl2N3O.ClH/c19-14-7-5-8-15(20)18(14)23-16-9-2-1-6-13(16)12-17(24)22-11-4-3-10-21;/h1-2,5-9,23H,3-4,10-12,21H2,(H,22,24);1H
